US08809369B2
A mixture solution of 2-(5-bromo-2-methyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (1.36 g, 3.64 mmol), oxazolidin-2-one (330 mg, 3.82 mmol), copper(I) iodide (139 mg, 0.73 mmol), N,N′-dimethyl-ethane-1,2-diamine (0.157 mL, 1.46 mmol), and potassium carbonate (1.51 g, 10.9 mmol) in acetonitrile (25 mL) was stirred at 90° C. for 72 h. Then the reaction mixture was cooled to room temperature. The reaction mixture was extracted with ethyl acetate (200 mL×2), washed with saturated aqueous ammonium chloride solution (50 mL×3) and brine (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 30-50% ethyl acetate in petroleum ether) to afford 4,4-dimethyl-2-[2-methyl-5-(2-oxo-oxazolidin-3-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.4 g, 29%) as a white solid: MS (ESI) M+1=381.1.

reactant | 2-(5-bromo-2-methyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 3.64 mmol, 1.36 g | BrC=1C=CC(=C(C1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O)C | C19H20BrNO2
reactant | oxazolidin-2-one | 3.82 mmol, 330 mg | O1C(NCC1)=O | C3H5NO2
reactant | N,N′-dimethyl-ethane-1,2-diamine | 1.46 mmol, 0.157 mL | CNCCNC | C4H12N2
reactant | potassium carbonate | 10.9 mmol, 1.51 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | copper(I) iodide | 0.73 mmol, 139 mg | [Cu]I
product | 4,4-dimethyl-2-[2-methyl-5-(2-oxo-oxazolidin-3-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.4 g, 29% | CC1(CC(NC2=CC=C(C=C12)C(=O)O)C1=C(C=CC(=C1)N1C(OCC1)=O)C)C | C22H24N2O4
